US09340555B2
To a stirred solution of methyl 7-(3-((2-fluoro-5-methylphenyl)carbamoyl)phenoxy)thieno[3,2-b]pyridine-2-carboxylate (170 mg, 0.39 mmol) in 15 ml of MeOH was added 1 ml of 1M NaOH. Reaction was complete within 2.5 hours. The mixture was poured into 100 ml of water and acidified with 2M HCl to pH=5 with vigorous stirring. The precipitates were filtered, washed with water and dried in vacuo to give 7-(3-{[(2-fluoro-5-methylphenyl)amino]carbonyl}phenoxy)thieno[3,2-b]pyridine-2-carboxylic acid as white solid. Yield: 150 mg, 91%.

reactant | methyl 7-(3-((2-fluoro-5-methylphenyl)carbamoyl)phenoxy)thieno[3,2-b]pyridine-2-carboxylate | 0.39 mmol, 170 mg | FC1=C(C=C(C=C1)C)NC(=O)C=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)OC)C=CC1 | C23H17FN2O4S
reactant | NaOH | 1M, 1 ml | [OH-].[Na+]
reactant | water | 100 ml | O | H2O
reactant | HCl | 2M | Cl | ClH
solvent | MeOH | 15 ml | CO | CH4O
product | 7-(3-{[(2-fluoro-5-methylphenyl)amino]carbonyl}phenoxy)thieno[3,2-b]pyridine-2-carboxylic acid | FC1=C(C=C(C=C1)C)NC(=O)C=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)O)C=CC1 | C22H15FN2O4S
